US07531532B2
4-(Azetidin-1-ylmethyl)piperidine-1-carboxylic acid {6-[2-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyrimidin-4-yl}amide
4-(Azetidin-1-ylmethyl)piperidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide (110 mg) was dissolved in ethanol (3 ml) under a nitrogen atmosphere, and then (S)-(+)-10-camphorsulfonic acid (64 mg) was added thereto, followed by stirring for 5 min. A 0.25 M solution of phenylacetyl isothiocyanate in toluene (1.65 ml) was added thereto, followed by stirring for 1 hr. The reaction mixture was partitioned between ethyl acetate (50 ml) and a saturated aqueous solution of sodium hydrogencarbonate (30 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (30 ml), water (30 ml), brine (30 ml) in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; heptane:ethyl acetate=1:8, then ethyl acetate). Fractions containing the target compound were concentrated under reduced pressure to give a residue, to which diethyl ether (4 ml) and hexane (4 ml) were then added to suspend. The solid was filtered off, and dried under aeration to provide the titled compound (76.1 mg) as white powder.

reactant | 4-(Azetidin-1-ylmethyl)piperidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide | 110 mg | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)CN2CCC2)C=C1)F | C20H25FN6O2
reactant | (S)-(+)-10-camphorsulfonic acid | 64 mg | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | phenylacetyl isothiocyanate | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
reactant | diethyl ether | 4 ml | C(C)OCC | C4H10O
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | toluene | 1.65 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 4 ml | CCCCCC | C6H14
product | 4-(Azetidin-1-ylmethyl)piperidine-1-carboxylic acid {6-[2-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyrimidin-4-yl}amide | 76.1 mg | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)CN2CCC2)C=CC(=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C29H32FN7O3S
